Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
metformin / chlorhexidine
 
Attending: ___
 
Chief Complaint:
abnormal blood counts in outpatient setting, need chemotherapy 
for relapsed AML
 
Major Surgical or Invasive Procedure:
Bone marrow biopsy (___)
Non-tunneled Central Venous Access placement (___)
Palate Punch Biopsy (___)
Tunneled Central Venous Access Placement (___)

 
History of Present Illness:
___ with relapsed AML (FLT3-/NPM1+, +trisomy 15 in ___ 
presenting for chemotherapy

Patient initially diagnosed with AML in ___ at ___ in 
___.  Treated with 7+3 ___ 12mg/m2, D1 = ___, 
followed by HiDAC x4 finishing in ___.  He relapsed in ___ 
and was treated with 5+5
(five days of mitoxantrone and five days of etoposide) however 
day 30 marrow showed persistent disease. He then received 
reinduction with FLA (fludarabine and ARA-C) went into remission 
and by
report, his repeat day 30 marrow showed no evidence of disease
and normal hematopoiesis.   

He was slated for allo transplant however ___ labs with blasts 
now suspect relapsed disease and decision made to admit for 
chemotherapy.

Of note, last marrow was ___ was ___ with normal 
cytogenetics.  TTE on ___ was normal with LVEF 55%.  Underwent 
liver biopsy on ___ for unexplained LFT elevation. 
 
Currently on the floor with minimal complaint. Reports was 
started on z-pak for likely sinus infection on ___ 
currently with mild hard palate pain, no accompanying 
rhinorrhea, sinus congestion.

ROS:
+ sinus congestion, hard palate "inflammation", occassional 
global headache
Denies fevers, chills, SOB, cough, CP, n/v/diarrhea.  
VS on floor:  

 
Past Medical History:
PAST MEDICAL HISTORY
Hepatosteatosis
Heterozygous hemochromatosis
Inguinal hernia
s/p concussion in ___
s/p periodontal surgery

PAST ONCOLOGIC HISTORY:
- ___: admitted after presenting to ___ c/o
malaise, fatigue, syncope, night sweats and weight loss and 
found on labs to have WBC of 148K with blasts, Hct: 17. At ___ 

admission, had 119K WBC and 48% blast, Hct 15.7, acute renal 
failure with creat of 2.7 (secondary to lysozyme kidney injury).
- ___: Peripheral Flow Cytometry: AML w/ monocytic
differentiation
- ___: BMBx: markedly hypercellular marrow with extensive 
involvement with AML with monocytic differentiation (58% blasts 
seen on aspirate).
- ___: BMBx cytogenetics: trisomy 15 in 86/100 nuclei.
- ___: received 7+3 induction chemotherapy - course
complicated by neutropenic fever, mastoiditis, and mild 
mucositis.
- ___: NPM positive; FLT3 negative
- ___: Day 14 BMBx: chemoablated marrow. Overall cellularity
40%. Significant fibrosis seen and most likely present prior to
chemo.
- ___: BMBx cytogenetics: trisomy 15 in ___ nuclei.
- ___: Day 20 BMBx: hypocellular bone marrow for age with 
prominent dysmegakaryopoiesis and scant left-shifted 
myelopoiesis. Concern for underlying myelodysplasia. AML blasts 
are not seen.
- ___: BMBx cytogenetics: Trisomy 15 in ___ nuclei.
- ___: JAK2 mutation analysis: Negative
- ___: Day 33 BMBx: Normocellular bone marrow for age with
maturing trilineage hematopoiesis and megakaryocytic clustering.
Diagnostic morphologic features of involvement by acute myeloid
leukemia are not seen.
- ___: BMBx cytogenetics: Trisomy 15 is not detected. NPM is
negative.
- ___: HIDAC cycle #1.
- ___: Admission for neutropenic fever.
- ___: HIDAC cycle #2.
- ___: HIDAC cycle #3.
- ___: HIDAC cycle #4.
- ___: Relapsed.  Treated with 5+5 (five days of mitoxantrone 
and five days of etoposide), but 30 day marrow showed persistent 
disease
- ___: Reinduction with FLA (Fludarabine and ARA-C), 30 day 
marrow showed no evidence of disease and normal hematopoiesis
- ___: Slated for allo transplant, but labs showed blasts 
(relapsed) on ___ bone marrow biopsy.  Admitted for idarubicin, 
cytarabine, vorinostat (FLT-3 positive), and hydroxyurea
- ___: Bone marrow biopsy shows no evidence of leukemia, 
move forward with allo-transplant
- ___: Matched, unrelated allogeneic hematopoeitic stem 
cell transplant
 
Social History:
___
Family History:
Breast cancer history on mother's side, including mother (dx 
~___), aunt.  ___ cancer in patient's maternal aunt.  There 
is history of throat cancer and brain cancer in the patient's 
father, who was a smoker.  No family history of leukemia.  One 
cousin had lymphoma.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:" 99  120/78  114ST, 14 98%RA  
GEN: AAOx3, NAD  
HEENT: PERRLA, EOMI, MMM, no thrush, no OP erythema or lesions, 
no obvious swelling of gums, no erythema, no lesions  
NECK: supple, no LAD, no JVD  
___: tachycardic, reg rhythm, no m/r/g  
LUNGS: reg resp rate, breathing unlabored, no accessory muscle 
use, lungs clear to auscultation bilaterally  
ABD: soft, NT, ND, NABS  
ext: 2+ pulses, no c/c/e  
Skin: no rashes  
neuro: CN ___ intact, strength ___ in UE and ___ bilat. 
sensation intact, gait stable  

DISCHARGE PHYSICAL EXAM
GENERAL - Well-appearing obese gentleman resting in bed in NAD.
HEENT -  No mucositis evident.
CARDIAC - RRR, no m/r/g.
LUNGS - CTAB.
SKIN - Diffuse erythematous papular rash that was seen on chest, 
abdomen, arms, neck is resolved..
ABDOMEN - BS normoactive.  No pain to deep palpation.
ACCESS: 6 ___ dual-lumen power injectable tunneled central 
venous 
catheter present in right neck.  Placed ___.

 
Pertinent Results:
ADMISSION LABS
==============
___ 10:00AM   WBC-11.5*# RBC-4.40* HGB-15.0 HCT-41.3 MCV-94 
MCH-34.1* MCHC-36.3* RDW-17.4*
___ 10:00AM   NEUTS-63 BANDS-1 LYMPHS-14* MONOS-4 EOS-1 
BASOS-0 ___ MYELOS-1* BLASTS-16*
___ 10:00AM   HYPOCHROM-NORMAL ANISOCYT-OCCASIONAL 
POIKILOCY-NORMAL MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-NORMAL
___ 09:22PM   GLUCOSE-250* UREA N-16 CREAT-1.2 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-98 TOTAL CO2-29 ANION GAP-14
___ 09:22PM   CALCIUM-8.8 PHOSPHATE-3.9 MAGNESIUM-1.6 URIC 
ACID-5.5
___ 06:48PM BONE MARROW  ___ CD33-DONE CD56-DONE 
CD64-DONE CD45-DONE ___ CD7-DONE CD13-DONE
___ 06:48PM BONE MARROW  CD34-DONE CD3-DONE CD4-DONE
___ 06:48PM BONE MARROW  IPT-DONE
___ 11:25AM   ___ PTT-30.8 ___
___ 10:00AM   ALT(SGPT)-95* AST(SGOT)-57* LD(LDH)-357* ALK 
PHOS-131* TOT BILI-0.3

CBC TREND:
==========
___ 10:00AM BLOOD WBC-11.5*# RBC-4.40* Hgb-15.0 Hct-41.3 
MCV-94 MCH-34.1* MCHC-36.3* RDW-17.4* Plt ___
___ 01:30PM BLOOD WBC-12.5* RBC-4.25* Hgb-14.1 Hct-40.2 
MCV-95 MCH-33.2* MCHC-35.1* RDW-17.5* Plt Ct-84*
___ 03:45PM BLOOD WBC-8.1 RBC-4.37* Hgb-14.5 Hct-40.2 
MCV-92 MCH-33.2* MCHC-36.1* RDW-17.0* Plt Ct-56*
___ 11:00AM BLOOD WBC-4.6 RBC-4.22* Hgb-13.9* Hct-40.1 
MCV-95 MCH-32.9* MCHC-34.6 RDW-17.1* Plt Ct-36*
___ 12:00AM BLOOD WBC-2.4* RBC-3.93* Hgb-13.5* Hct-37.8* 
MCV-96 MCH-34.3* MCHC-35.7* RDW-16.5* Plt Ct-30*
___ 10:31PM BLOOD WBC-0.1* RBC-2.99* Hgb-10.3* Hct-27.8* 
MCV-93 MCH-34.6* MCHC-37.1* RDW-14.7 Plt Ct-26*
___ 12:07AM BLOOD WBC-0.1* RBC-2.98* Hgb-10.4* Hct-27.5* 
MCV-92 MCH-34.9* MCHC-37.8* RDW-14.4 Plt Ct-18*
___ 12:30AM BLOOD WBC-0.1* RBC-2.90* Hgb-9.6* Hct-26.2* 
MCV-90 MCH-33.1* MCHC-36.7* RDW-13.9 Plt Ct-9*
___ 12:00AM BLOOD WBC-0.1* RBC-2.37* Hgb-8.1* Hct-21.6* 
MCV-91 MCH-34.2* MCHC-37.6* RDW-14.2 Plt Ct-15*
___ 06:20AM BLOOD WBC-0.1* RBC-2.35* Hgb-7.8* Hct-21.6* 
MCV-92 MCH-33.2* MCHC-36.2* RDW-13.8 Plt Ct-23*#
___ 06:22AM BLOOD WBC-0.2*# RBC-2.67* Hgb-9.0* Hct-24.1* 
MCV-90 MCH-33.8* MCHC-37.4* RDW-13.1 Plt Ct-13*
___ 06:10AM BLOOD WBC-0.2* RBC-2.66* Hgb-8.9* Hct-24.2* 
MCV-91 MCH-33.3* MCHC-36.7* RDW-13.0 Plt Ct-5*#
___ 12:17AM BLOOD WBC-0.1* RBC-2.23* Hgb-7.5* Hct-19.8* 
MCV-89 MCH-33.5* MCHC-37.7* RDW-13.3 Plt Ct-11*
___ 02:10PM BLOOD WBC-<0.1* RBC-2.13* Hgb-6.7* Hct-18.2* 
MCV-85 MCH-31.7 MCHC-37.2* RDW-13.5 Plt Ct-9*
___ 12:00AM BLOOD WBC-<0.1* RBC-2.72* Hgb-8.5* Hct-22.8* 
MCV-84 MCH-31.2 MCHC-37.2* RDW-12.4 Plt Ct-9*
___ 12:00AM BLOOD WBC-0.1* RBC-2.68* Hgb-8.3* Hct-21.8* 
MCV-82 MCH-31.0 MCHC-38.0* RDW-12.2 Plt Ct-11*
___ 12:00AM BLOOD WBC-1.0*# RBC-2.86* Hgb-8.6* Hct-24.2* 
MCV-85 MCH-30.2 MCHC-35.6* RDW-16.4* Plt Ct-64*
___ 12:00AM BLOOD WBC-1.5* RBC-3.11* Hgb-9.5* Hct-27.3* 
MCV-88 MCH-30.6 MCHC-34.8 RDW-19.3* Plt Ct-93*
___ 12:05AM BLOOD WBC-1.6* RBC-2.94* Hgb-9.0* Hct-25.8* 
MCV-88 MCH-30.7 MCHC-35.0 RDW-19.4* Plt ___
___ 12:00AM BLOOD WBC-1.9* RBC-3.08* Hgb-9.4* Hct-27.3* 
MCV-89 MCH-30.7 MCHC-34.7 RDW-19.3* Plt ___
___ 12:00AM BLOOD WBC-2.9*# RBC-3.12* Hgb-9.6* Hct-27.8* 
MCV-89 MCH-30.6 MCHC-34.4 RDW-18.9* Plt ___
___ 12:00AM BLOOD WBC-5.2# RBC-3.40* Hgb-10.2* Hct-31.0* 
MCV-91 MCH-30.0 MCHC-33.0 RDW-19.1* Plt ___

LFT TREND
=========
___ 10:00AM BLOOD ALT-95* AST-57* LD(___)-357* AlkPhos-131* 
TotBili-0.3
___ 12:50PM BLOOD LD(___)-422*
___ 12:00AM BLOOD ALT-37 AST-20 LD(___)-248 AlkPhos-109 
TotBili-0.8
___ 12:00AM BLOOD ALT-71* AST-43* LD(___)-184 AlkPhos-81 
TotBili-0.5
___ 10:31PM BLOOD Amylase-47
___ 05:55AM BLOOD ALT-44* AST-35 AlkPhos-79 TotBili-0.4
___ 12:05AM BLOOD ALT-89* AST-52* AlkPhos-152* TotBili-0.3
___ 12:00AM BLOOD ALT-35 AST-22 LD(___)-252* AlkPhos-84 
TotBili-0.7
___ 12:19AM BLOOD ALT-95* AST-47* LD(___)-236 AlkPhos-102 
TotBili-0.4
___ 12:00AM BLOOD ALT-64* AST-56* LD(___)-314* AlkPhos-107 
TotBili-0.4
___ 12:05AM BLOOD ALT-84* AST-67* LD(___)-293* AlkPhos-104 
TotBili-0.3
___ 12:00AM BLOOD ALT-97* AST-76* LD(___)-295* AlkPhos-103 
TotBili-0.4
___ 12:00AM BLOOD ALT-96* AST-59* LD(LDH)-272* AlkPhos-106 
TotBili-0.4
___ 12:00AM BLOOD ALT-118* AST-73* LD(LDH)-278* AlkPhos-110 
TotBili-0.4

IMAGING
=======
___: Liver U/S:
1.  Nonspecific mild echogenicity of the liver may represent 
unerlying mild diffuse hepatic steatosis. No discrete liver 
lesions identified. 
2.  Collapsed gallbladder, without evidence of biliary ductal 
dilatation.  Normal caliber common bile duct. 

___: CT Chest- Mild ground-glass opacities have improved 
since the prior study and remaining faint opacities in the right 
upper lobe may be sequela of prior infection. Slight septal 
prominence may be due to mild pulmonary edema or possibly early 
manifestation of a viral infectious process. Prevascular node 
measures 7 mm and is slightly enlarged from prior study. 
Remainder of scattered mediastinal nodes are stable. Enlarged 
main pulmonary artery consistent with pulmonary hypertension. 
Findings compatible with anemia. 

___: TTE-IMPRESSION: no vegetations seen  

___: CT Abdomen/Pelvis: No evidence of infection or 
inflammation in the abdomen and pelvis. Subcentimeter liver dome 
lesion,stable, too small to fully characterize. 

___: TTE-The left atrium is normal in size. Left ventricular 
wall thickness, cavity size, and global systolic function are 
normal (LVEF 60%). Due to suboptimal technical quality, a focal 
wall motion abnormality cannot be fully excluded. Tissue Doppler 
imaging suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion. 

___: CT sinus: Dental hardware, slightly limiting evaluation 
of the oral cavity, without detected abscess. 

___: RUQ U/S:=No focal liver lesions seen.  Mild 
splenomegaly with one, and  possibly two, small echogenic 
lesions consistent with hemangiomas. 

PATHOLOGY:
==========
___: Bone marrow bx- Hypocellular marrow with no morphologic 
evidence of acute leukemia.

___: Hard Palate bx: The overall morphologic and 
immunohistochemistry pattern is consistent with mucosal 
involvement by acute myeloid leukemia. Please correlate with 
clinical and radiographic findings. 

___: Bone marrow bx- HYPERCELLULAR BONE MARROW EXTENSIVELY 
INFILTRATED WITH RELAPSED ACUTE MYELOID LEUKEMIA

___: Liver bx- Macrovesicular steatosis, Stage II-III 
fibrosis.  Moderate to severe predominately macrovesicular 
steatosis with frequent balloon degeneration and rare 
intracytoplasmic hyalin. Mild to moderate portal and lobular, 
mixed inflammation including lymphocytes, plasma cells and 
neutrophils with scattered apoptotic hepatocytes. No viral 
cytopathic changes are seen. Trichrome stain shows increased 
portal/periportal and sinusoidal fibrosis with focal bridging 
(Stage ___ fibrosis). Iron stains shows moderate to severe iron 
deposition in predominately hepatocytes and less in Kupffer 
cells.

TRANSFUSION REACTIONS
=====================
Tansfusion history: 
Previous non-reactive red cell transfusions: 41 
Previous reactive red cell transfusions: 1 ___ allergic] 
Previous non-reactive platelet transfusions: 25 
Previous reactive platelet transfusions: 6 ___, 
___, 
___ all urticarial/allergic] 
  
DIAGNOSIS, ASSESSMENT AND RECOMMENDATIONS: Mr. ___ 
experienced 
hives and lip swelling after receiving 100 cc of PRBC on ___. 

Mild allergic/urticarial reactions are thought to be mediated by 
soluble 
substances/antigens in the donor product that cause IgE mediated 

histamine release. Urticarial reactions complicate 1-3% of 
transfusions. 
The presence of one mild allergic/urticarial reaction does not 
predict 
future reactions. We recommend no changes in standard 
transfusion 
practices at this time. 

MICROBIOLOGY
============
___  CATHETER TIP-IV  {STAPHYLOCOCCUS, COAGULASE 
NEGATIVE} 
___  BLOOD CULTURE    {STAPHYLOCOCCUS EPIDERMIDIS}
___  BLOOD CULTURE    {VIRIDANS STREPTOCOCCI, 
STAPHYLOCOCCUS EPIDERMIDIS};
Blood Culture, Routine (Final ___:    NO GROWTH. 
URINE CULTURE (Final ___:    NO GROWTH. 
Stem Cell ___ Culture (Final ___:    NO GROWTH. 
  C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative).

 
Brief Hospital Course:
PRIMARY REASON FOR HOSPITALIZATION
==================================
Pt is a ___ with relapsed AML (FLT3-/NPM1+, +trisomy 15 in 
___ presenting for hematopoietic stem cell transplant

#) AML, relapsed: Pt was admitted for relapsed AML and was 
immediately started on hydroxyurea and vorinostat. After central 
access was achieved, he was started on idarubicin from day 4 to 
6, and cytarabine was given on days ___. Pt tolerated the 
chemotherapy very well and had mild dyspepsia and loose stools. 
He had bouts of thrombocytopenia which caused bloody bowel 
movements but were corrected with platelet transfusions.  Bone 
marrow biopsy on ___ showed hypocellular marrow with no 
evidence of leukemia, so went forward with MUD transplant on 
___.  Became febrile during the infusion of stem cells, so 
antibiotics started, but all cultures came back negative, so 
antibiotics were discontinued on ___.  WBC counts began 
recovering D+11 and he experienced a robust engraftment which 
did not require filgrastim.  WBC was 5,200 on discharge with no 
blasts seen.

#) LUKEMIA CUTIS: Upon admission, patient was finishing his 5 
day course of azithromycin which was empirically treating a 
sinusitis. Pt was complaining of L maxillary sinus tenderness 
and L palate swelling. CT of maxillae/sinus/mandible showed no 
signs of abscess or sinusitis but could not rule out superficial 
leukemic infiltration. ENT biopsied palate which showed leukemia 
cutis. The swelling improved while patient was receiving 
chemotherapy infusion.

#) HEPATOSTEATOSIS: Patient has a chronic history of 
transaminitis and remained stable at baseline to slightly 
elevated throughout hospital course. A liver biopsy was done a 
week before admission as an outpatient and the results ruled out 
leukemic involvement; showed presence of fatty infiltration, 
fibrosis (stage II-III) and iron deposition in hepatocytes. 
LFT's would increase with any hepatotoxic med, including 
busulfan. At time of discharge LFTs were increasing with 
instructions to follow-up closely as an outpatient with Dr. 
___.

#) HYPERGLYCEMIA: Patient was hyperglycemic throughout hospital 
course and was especially hyperglycemic in the 300-400s while on 
the four day course of dexamethasone. During this time he 
required at least 65 U of insulin per day. ___ was consulted 
and recommended a sliding scale to manage the blood glucose 
after the four day course of dexamethasone. 

#) FEBRILE NON-HEMOLYTIC TRANSFUSION REACTIONS- Fever, rigors, 
and chills shortly after SCT. Associated with tachypnea and 
tachycardia.  Differential was allergic reaction to blood 
products versus infection.  CT chest negative for infectious 
process.  Blood, urine cultures negative.  Nevertheless, was 
treated with cefepime and vancomycin ___.

#) GPC SEPSIS- S. epi and S. Viridans sepsis during conditioning 
prior to transplant (cultures positive on ___, transplanted on 
___  Central line pulled and positive for S. epi. TTE 
performed, not indicitive of IE, but windows very poor given pt 
body habitus. No positive cultures after initial infection.

TRANSITIONAL ISSUES:
====================
- Follow-up with PCP regarding diabetes management (oral 
hypoglycemics)
- Follow-up with Dr. ___ as outpatient, and plan for 
transplant
- Follow-up with hepatologist or establish pt with one to 
followup on hepatic fibrosis, severe iron deposition in 
hepatocytes and NASH.
 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from webOMR.
1. Acyclovir 400 mg PO Q8H 
2. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 

 
Discharge Medications:
1. folic acid 1 mg tablet Sig: One (1) tablet PO DAILY (Daily).  

2. tacrolimus 0.5 mg capsule Sig: Two (2) capsule PO Q12H (every 
12 hours).
Disp:*120 capsule(s)* Refills:*2*
3. acyclovir 400 mg tablet Sig: One (1) tablet PO Q8H (every 8 
hours).
Disp:*90 tablet(s)* Refills:*2*
4. famotidine 20 mg tablet Sig: One (1) tablet PO Q12H (every 12 
hours).
Disp:*60 tablet(s)* Refills:*2*
5. sulfamethoxazole-trimethoprim 400-80 mg tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. fluconazole 200 mg tablet Sig: Two (2) tablet PO Q24H (every 
24 hours).
Disp:*60 tablet(s)* Refills:*2*
7. insulin lispro 100 unit/mL Insulin Pen Sig: One (1)  
Subcutaneous every six (6) hours: Dose as instructed by sliding 
scale from finger stick readings.
Disp:*1 Box* Refills:*2*
8. insulin glargine 100 unit/mL (3 mL) Insulin Pen Sig: Forty 
(40) Units Subcutaneous at bedtime.
Disp:*1 Box* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute myelogenous leukemia, relapsed
Hyperglycemia
Neutropenic fever
S.epi and S. viridans sepsis
Transfusion reaction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure taking care of you at the ___.
You were admitted to the ___ 
after you were found to have atypical immature cells in your 
laboratory blood work. Because of this, your relapsed AML was 
treated with hydroxyurea, vorinostat, and IV infusion of 
idarubicin and cytarabine. You tolerated the chemotherapy very 
well. Your blood sugars were very high especially while 
receiving steroids, and required an endocrinologist/diabetes 
specialist to help adjust your insulin scales.

In the weeks prior to your stem cell transplant, you spiked a 
fever and blood cultures showed bacteria growing in your blood. 
You were given IV antibiotics for this, your fever stopped, and 
no other culture grew out bacteria. One of these bacteria is 
usually associated with an infection of the heart. 
Unfortunately, we could not perform the right test to fully 
exclude a heart infection. The name of the test is a 
transesophageal echocardiogram or TEE. This should be considered 
now that your blood counts have normalized. 

You were bone marrow was transplanted with stem cells from a 
matched unrelated donor. You were treated with chemotherapy 
prior to transplant. This was complicated by a slight increase 
in liver enzymes, however, they came down to normal before your 
transplant. After transplant you had a very high temperature, 
respiratory difficulties, and high heart rate for several days. 
We believe this was a reaction to the cells, and not a true 
infection.  

In the following days your white blood cell (infection-fighting 
cells) began to recover robustly, and did not require the use of 
filgrastim (Neupogen.)  Your antibiotics were discontinued and 
you showed no further signs of infection.

We attempted to start you on metformin for high blood sugars, 
but you developed a rash which we believe was an allergic 
reaction to this drug.

Please follow up in clinic daily for lab draws through the 
weekend and see Dr. ___ on ___ as outlined below.
 
Followup Instructions:
___